US09255089B2
6-(3,5-dimethylisoxazol-4-yl)-4-(1-hydroxy-1-(pyridin-2-yl)pent-4-en-1-yl)-1H-benzo[d]imidazol-2(3H)-one
Magnesium metal (20 mg, 0.82 mmol) was taken up in THF (1.5 mL) and (bromomethyl)cyclopropane (100 mg, 0.71 mmol) was added dropwise and the reaction was heated to 65° C. for 1 hr. (Cyclopropylmethyl)magnesium bromide (0.5 M, 0.83 mL, 0.41 mmol) was then added dropwise to a solution of (6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone (50 mg, 0.14 mmol) in dry THF (1.4 mL) which was cooled to 0° C. Reaction mixture was allowed to stir for 10 mins, quenched with water and extracted three times with EtOAc. Combined organic layers were washed once with water and concentrated. Residue was dissolved in a mixture of EtOH (1.5 mL) and 4.0M HCl/dioxane (0.75 mL) and heated for 2 hours at 65° C. Reaction was then concentrated and purified by reverse-phase HPLC to afford the desired product as a white powder.

reactant | Magnesium | 0.82 mmol, 20 mg | [Mg] | Mg
reactant | (bromomethyl)cyclopropane | 0.71 mmol, 100 mg | BrCC1CC1 | C4H7Br
reactant | (Cyclopropylmethyl)magnesium bromide | 0.41 mmol, 0.5 M, 0.83 mL | C1(CC1)C[Mg]Br
reactant | (6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone | 0.14 mmol, 50 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(=N2)OCC)C1)C(=O)C1=NC=CC=C1)C | C20H18N4O3
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | 6-(3,5-dimethylisoxazol-4-yl)-4-(1-hydroxy-1-(pyridin-2-yl)pent-4-en-1-yl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(CCC=C)(C1=NC=CC=C1)O)C | C22H22N4O3
